US05994569
17.83 g (57.4 mmol) of (Z)-(5R)-9-(tetrahydro-pyran-2-yloxy)-1-trimethylsilanyl-non-2-en-7-yn-5-ol was dissolved in 210 ml of abs. toluene. At -15°, 30.6 ml t-butyl-hydroperoxide (3 M, toluene) was added, followed by 761 mg (5 mol %) of vanadium-oxyacetylacetonate. The temperature was then rised within 16 h to 22°. TLC indicated the disappearance of starting olefin. While cooling in an ice bath, 13.5 ml (115 mmol) of trimethylphosphite was added in order to destroy the excess of hydroperoxide. 90 minutes later, a solution of 39.8 g of dry TBAF in 125 ml of THF was added and the reaction mixture kept for 90 minutes at RT. The homogeneous solution was then poured onto crushed ice, extracted with AcOEt, washed with water, dried over sodium sulfate and evaporated to dryness. Flash chromatography (SiO2, hexane/AcOEt=6/4) yielded 10.40 g of (3S,5S)-9-(tetrahydro-pyran-2-yloxy)-non-1-en-7-yne-3,5-diol as slightly yellow oil (1:1 epimeric mixture).

reactant | (Z)-(5R)-9-(tetrahydro-pyran-2-yloxy)-1-trimethylsilanyl-non-2-en-7-yn-5-ol | 57.4 mmol, 17.83 g | O1C(CCCC1)OCC#CC[C@@H](C\C=C/C[Si](C)(C)C)O | C17H30O3Si
reactant | t-butyl-hydroperoxide | 3 M, 30.6 ml | C(C)(C)(C)OO | C4H10O2
reactant | trimethylphosphite | 115 mmol, 13.5 ml | COP(OC)OC | C3H9O3P
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (3S,5S)-9-(tetrahydro-pyran-2-yloxy)-non-1-en-7-yne-3,5-diol | 10.40 g | O1C(CCCC1)OCC#CC[C@@H](C[C@@H](C=C)O)O | C14H22O4
